US08791132B2
To a stirred solution of compound 2-(10-methyl-2,3,5,6-tetrahydro-1H-indolizino[7,8-b]indol-7(11cH)-yl)-1-(1-trityl-1H-imidazol-5-yl)ethanol (400 mg, 0.69 mmol) in MeOH (10 mL), 1N HCl (1 mL) at 0° C. was added. The reaction mixture was stirred at RT for 2 h. The reaction mixture concentrated under vacuum to obtain the crude product that was basified with sat sodium bicarbonate solution and extracted with EtOAc (50 mL). The organic layer dried on anhydrous sodium sulfate, and concentrated under vacuum to obtain the crude product that was purified by reverse phase HPLC to obtain 1-(1H-imidazol-5-yl)-2-(10-methyl-2,3,5,6-tetrahydro-1H-indolizino[7,8-b]indol-7(11cH)-yl)ethanol (12 mg) as the TFA salt. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.79 (s, 1H), 7.4 (s, 1H), 7.27 (s, 1H), 7.2 (dd, 1H), 7.01 (d, 1H), 5.18 (t, 1H), 5.04 (m, 1H), 4.39 (m, 2H), 3.67 (m, 3H), 3.42 (m, 2H), 3.2 (m, 1H), 2.7 (m, 1H), 2.4 (s, 3H), 2.2 (m, 3H). Separation by chiral HPLC provides diastereomers II-140a-d.

reactant | 2-(10-methyl-2,3,5,6-tetrahydro-1H-indolizino[7,8-b]indol-7(11cH)-yl)-1-(1-trityl-1H-imidazol-5-yl)ethanol | 0.69 mmol, 400 mg | CC1=CC=2C3=C(N(C2C=C1)CC(O)C1=CN=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCN1CCCC13 | C39H38N4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | HCl | 1N, 1 mL | Cl | ClH
product | 1-(1H-imidazol-5-yl)-2-(10-methyl-2,3,5,6-tetrahydro-1H-indolizino[7,8-b]indol-7(11cH)-yl)ethanol | 12 mg | N1C=NC=C1C(CN1C2=C(C=3C=C(C=CC13)C)C1CCCN1CC2)O | C20H24N4O
